US05952335
A suspension of 4.24 g (22.5 mmol) of 1-naphthylhydrazine hydrochloride in acetic acid (35 ml) was slowly boiled and a solution of 3.4 g (20.6 mmol) of 2-nitrophenylacetaldehyde in acetic acid (15 ml) was dropped thereinto under stirring. After the completion of the dropping, the obtained mixture was heated under reflux for 1 hour. Then 20 ml of a mixture of 1 N hydrochloric acid with acetic acid was further added thereto and the obtained mixture was heated under reflux for additional 1 hour. After distilling off the solvent, the residue was dissolved by adding ethyl acetate thereto. The organic layer was washed successively with an aqueous solution of sodium hydrogencarbonate, water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography to thereby give 1.91 g (yield: 32%) of 7-(2-nitrophenyl)benz[g]indole. Then the obtained product was dissolved in ethyl acetate (60 ml) and 200 mg of platinum (IV) oxide was added thereto. Then catalytic reduction was effected under atmospheric pressure in a hydrogen atmosphere at room temperature to thereby give 1.7 g (yield: 99%) of 7-(2-aminophenyl)benz[g]indole.

reactant | 1-naphthylhydrazine hydrochloride | 22.5 mmol, 4.24 g | Cl.C1(=CC=CC2=CC=CC=C12)NN
reactant | 2-nitrophenylacetaldehyde | 20.6 mmol, 3.4 g | [N+](=O)([O-])C1=C(C=CC=C1)CC=O | C8H7NO3
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 7-(2-nitrophenyl)benz[g]indole | 1.91 g, yield: 32% | [N+](=O)([O-])C1=C(C=CC=C1)C=1C=CC=2C(=CC=C3C=CNC23)C1 | C18H12N2O2
